US05998442
[2-(3-fluoro-4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone
A solution of [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone (1.5 g, 3.6 mmol)(see U.S. Pat. No. 5,420,349) in chlorobenzene (15 mL) was cooled to 0° and treated with a 0.73 M THF solution of 3-fluoro-4-methoxyphenylmagnesium bromide (16.0 mL, 11.7 mmol)(prepared from 4-bromo-2-fluoroanisole, catalytic iodine, and magnesium turnings in THF). The mixture was allowed to warm to ambient temperature and when the starting material was consumed, the reaction was quenched with water and extracted with ethyl acetate. The organic layer was washed with water (2x), and brine (2x), dried (sodium sulfate), and concentrated. The residue was purified via chromatography (silica gel, 5-10% MeOH in CH2Cl2) to provide 0.79 g (44%) of the title compound as a brown oil: 1H NMR d 1.44 (m, 2H), 1.59 (m, 4H), 2.48 (m, 4H), 2.74 (t, J=6.0 Hz, 2H), 3.83 (s, 3H), 3.88 (s, 3H), 4.09 (t, J=6.0 Hz, 2H), 6.77-6.83 (m, 3H), 6.96 (dd, J=2.3 Hz, 8.9 Hz, 1H), 7.11-7.19 (m, 2H), 7.31 (d, J=2.3 Hz, 1H), 7.50 (d, J=8.8 Hz, 1H), 7.75 (d, J=8.8 Hz, 2H); 13C NMR d 24.4, 26.1, 55.3, 55.9, 56.4, 57.9, 66.5, 104.7, 113.5, 114.6, 115.3, 116.7, 117.0, 124.4, 125.5, 126.7, 126.8, 130.5, 131.6, 132.6, 134.1, 140.4, 140.9, 148.0, 148.1, 153.8, 158.1, 163.5, 193.2; MS (FD) m/e 519 (M+); Anal. calc'd. for C30H30FNO4S: C, 69.34; H, 5.82; N, 2.69. Found: C, 69.63; H, 5.89; N, 2.64.

reactant | [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 3.6 mmol, 1.5 g | CN(C=1SC2=C(C1C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C2)OC)C | C25H30N2O3S
reactant | THF | 0.73 M | C1CCOC1 | C4H8O
reactant | 3-fluoro-4-methoxyphenylmagnesium bromide | 11.7 mmol, 16.0 mL | FC=1C=C(C=CC1OC)[Mg]Br
solvent | chlorobenzene | 15 mL | ClC1=CC=CC=C1 | C6H5Cl
product | [2-(3-fluoro-4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 0.79 g, 44% | FC=1C=C(C=CC1OC)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)OCCN2CCCCC2 | C30H30FNO4S
